US06417366B2
To a 250-mL single-necked round-bottom flask was charged the 3-(3-quinolyl)-2-propyn-1-ol t-butyl carbonate (1.52 g, 5.37 mmol), isopropanol (30 mL) and 5% palladium on calcium carbonate poisoned with lead (Lindlar's catalyst, 75 mg, 0.049 equiv). The suspension was stirred (rapidly) magnetically and the atmosphere above the solution was purged with hydrogen. A balloon of hydrogen gas was then placed over the reaction stirring mixture and the reaction was allowed to stir for 16 hours at room temperature. The reaction mixture was then filtered through a 0.45μ filter disk and rinsed with 10 mL of isopropanol. The combined filtrates were concentrated under reduced pressure and the residue (1.55 g) was taken up in 9 mL of heptane/acetone (8:1) and eluted through a plug of silica gel (1.5 g) with 8:1:0.01 heptane/acetone/triethylamine. The desired fractions were combined and concentrated under reduced pressure to provide 3-(3-quinolyl)-2-propen-1-ol t-butyl carbonate: 1.1 g, 71.9%

reactant | 3-(3-quinolyl)-2-propyn-1-ol t-butyl carbonate | 5.37 mmol, 1.52 g | N1=CC(=CC2=CC=CC=C12)C#CCO.C(C)(C)(C)OC([O-])=O
catalyst | Lindlar's catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
catalyst | palladium on calcium carbonate | [Pd] | Pd
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 3-(3-quinolyl)-2-propen-1-ol t-butyl carbonate | N1=CC(=CC2=CC=CC=C12)C=CCO.C(C)(C)(C)OC([O-])=O | InChI=1S/C12H11NO.C5H10O3/c14-7-3-4-10-8-11-5-1-2-6-12(11)13-9-10;1-5(2,3)8-4(6)7/h1-6,8-9,14H,7H2;1-3H3,(H,6,7)/p-1
